US07482341B2
Step D]: 5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-(5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.357 g) and 3M aqueous NaOH (2.68 mL) as a dark red oil (0.163 g). MS (EI): 192.2 (M+).

reactant | N-(5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.357 g | C1(CC1)COCC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C16H24N2O2
reactant | NaOH | 3M, 2.68 mL, 0.163 g | [OH-].[Na+]
product | 5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine | C1(CC1)COCC=1C=CC(=NC1C)N | C11H16N2O
